US05972965
A mixture of (1R)-1-azido-5-t-butyldiphenylsilyloxy-1,2,3,4-tetra-hydronaphthalene (0.95 mg) and 10% Pd/C (0.2 g) in a mixture of ethanol (20 ml) and THF (20 ml) was stirred under H2 for 2 hours. The catalyst was filtered off and filtrate was evaporated. The residue was dissolved in DMF (10 ml) and then K2CO3 (600 mg) and (4,5-diphenyloxazol-2-yl)methyl bromide (700 mg) were added thereto. After being stirred for 2 hours at room temperature, the mixture was poured into a mixture of ethyl acetate and water. The organic layer was washed with water and brine, dried over MgSO4, and evaporated in vacuo. The residue was purified by chromatography on silica gel to afford (1R)-1-(4,5-diphenyloxazol-2-yl)methylamino-5-t-butyldiphenylsilyloxy-1,2,3,4-tetrahydronaphthalene (1.4 g). MS (m/z): 636 (M+ +1) IR (Neat): 3400 cm-1NMR (CDCl3, δ): 1.09 (9H, s), 1.6-2.2 (4H, m), 2.6-3.2 (2H, m), 3.91 (1H, m), 4.06 (2H, s), 6.30 (1H, d, J=8 Hz), 6.72 (1H, t, J=8 Hz), 6.93 (1H, d, J=8 Hz), 7.2-7.8 (10H, m)

reactant | (1R)-1-azido-5-t-butyldiphenylsilyloxy-1,2,3,4-tetra-hydronaphthalene | 0.95 mg | N(=[N+]=[N-])[C@@H]1CCCC2=C(C=CC=C12)O[Si](C1=CC=CC=C1)(C1=CC=CC=C1)C(C)(C)C | C26H29N3OSi
reactant | THF | 20 ml | C1CCOC1 | C4H8O
solvent | ethanol | 20 ml | C(C)O | C2H6O
catalyst | Pd/C | 0.2 g | [Pd] | Pd
product | (1R)-1-(4,5-diphenyloxazol-2-yl)methylamino-5-t-butyldiphenylsilyloxy-1,2,3,4-tetrahydronaphthalene | 1.4 g | C1(=CC=CC=C1)C=1N=C(OC1C1=CC=CC=C1)CN[C@@H]1CCCC2=C(C=CC=C12)O[Si](C1=CC=CC=C1)(C1=CC=CC=C1)C(C)(C)C | C42H42N2O2Si
